US04490392
A mixture of 3.9 g of 2,3,4-trimethoxybenzaldehyde, 3.7 g of nitroethane, 2.5 g of Amberlite IR-45 acetate and 200 ml of toluene is refluxed for 20 hours while removing the resultant water. After the reaction is completed, the reaction mixture is filtered, and the filtrate is evaporated to remove solvent. The residue thus obtained is recrystallized from a mixture of isopropyl ether and hexane. 4.3 g of 1-(2,3,4-trimethoxyphenyl)-2-nitropropene are thereby obtained as yellow cubes. M.p. 57°-58° C.

reactant | 2,3,4-trimethoxybenzaldehyde | 3.9 g | COC1=C(C=O)C=CC(=C1OC)OC | C10H12O4
reactant | nitroethane | 3.7 g | [N+](=O)([O-])CC | C2H5NO2
reactant | acetate | C(C)(=O)[O-]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2,3,4-trimethoxyphenyl)-2-nitropropene | 4.3 g | COC1=C(C=CC(=C1OC)OC)C=C(C)[N+](=O)[O-] | C12H15NO5
